US08247436B2
3-Amino-6-(2,4-dichloro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid
3-Amino-6-(2,4-dichloro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid methyl ester (0.9 g, 2.465 mmol) was suspended in MeOH (15 ml) and NaOH 2M (2.465 ml, 4.93 mmol) was added under stirring. 1,4-Dioxane (15.00 ml) was added and the solution was left standing at RT over night. The solvent was removed in vacuo and the resulting residue was dissolved in water (10 ml) and carefully acidified to pH4 with slow addition of 2M HCl (2 ml) whilst stirring. The mixture was extracted with EtOAc (20 ml) and the organic portion was washed with brine and concentrated in vacuo. The residue was purified by reverse phase chromatography (130 g C18 column) eluting with water/MeOH to afford the title compound; LS-MS Rt=1.57 mins[M+H]+ 351.0 (Method 2 min LC_v002).

reactant | 3-Amino-6-(2,4-dichloro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid methyl ester | 2.465 mmol, 0.9 g | COC(=O)C1=NC(=C(C=C1N)C(F)(F)F)C1=C(C=C(C=C1)Cl)Cl | C14H9Cl2F3N2O2
reactant | NaOH | 4.93 mmol, 2M, 2.465 ml | [OH-].[Na+]
reactant | 1,4-Dioxane | 15.00 ml | O1CCOCC1 | C4H8O2
solvent | MeOH | 15 ml | CO | CH4O
product | 3-Amino-6-(2,4-dichloro-phenyl)-5-trifluoromethyl-pyridine-2-carboxylic acid | NC=1C(=NC(=C(C1)C(F)(F)F)C1=C(C=C(C=C1)Cl)Cl)C(=O)O | C13H7Cl2F3N2O2
